US04312994
4-Vinyl-1-nonyn-4-ol
A solution of 130 ml of 2.3 molar vinyl magnesium chloride in 100 ml of ether is cooled to 0° and treated dropwise with 14 g of 1-nonyn-4-one in 50 ml of ether. The reaction mixture is allowed to come to room temperature and poured into ether and dilute hydrochloric acid. The organic layer is separated, washed with water, dried over sodium sulfate, stripped of solvent and the residue is chromatographed on silica gel with 20% ethyl acetate in hexane as eluent to give the title product.

reactant | vinyl magnesium chloride | 2.3 molar, 130 ml | C(=C)[Mg]Cl
reactant | 1-nonyn-4-one | 14 g | C#CCC(CCCCC)=O | C9H14O
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 4-Vinyl-1-nonyn-4-ol | C(=C)C(CC#C)(CCCCC)O | C11H18O
